US06635638B2
1,2,3,4-Tetrahydro-2-(benzyloxycarbonyl)-3-(3,4-methylenedioxyphenyl)-9H-pyrrolo-[3,4-b]quinolin-9-one (#27)
2-benzyloxycarbonyl-1-(3,4-methylenedioxyphenyl)-2,3,4,9-tetrahydro-1H-β-carboline (3.63 g, 8.51 mmol) ) (prepared as in Example 10) was dissolved in dry DMF (25 mL). Potassium t-butoxide (2.40 g, 21.4 mmol) was introduced in one portion and the suspension was stirred until a clear solution was obtained. Oxygen gas was then passed through the solution via a syringe needle for 16 h. The reaction was quenched by the addition of glacial acetic acid (1.23 mL, 21.0 mmol) and poured into water (250 mL), which resulted in a precipitate that was collected by filtration. The product was purified by flash chromatography (2-10% MeOH/CHCl3) to yield the product as a red powder.

reactant | 2-benzyloxycarbonyl-1-(3,4-methylenedioxyphenyl)-2,3,4,9-tetrahydro-1H-β-carboline | 8.51 mmol, 3.63 g | C(C1=CC=CC=C1)OC(=O)N1C(C=2NC3=CC=CC=C3C2CC1)C1=CC2=C(C=C1)OCO2 | C26H22N2O4
reactant | Potassium t-butoxide | 21.4 mmol, 2.40 g | CC(C)([O-])C.[K+]
reactant | Oxygen | O=O | O2
reactant | acetic acid | 21.0 mmol, 1.23 mL | C(C)(=O)O | C2H4O2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | water | 250 mL | O | H2O
product | 1,2,3,4-Tetrahydro-2-(benzyloxycarbonyl)-3-(3,4-methylenedioxyphenyl)-9H-pyrrolo-[3,4-b]quinolin-9-one | C(C1=CC=CC=C1)OC(=O)N1C(C=2NC=3C=CC=CC3C(C2C1)=O)C1=CC2=C(C=C1)OCO2 | C26H20N2O5
